US08053039B2
1.28 g of 4-{[6-(methacryloyloxy)hexyl]oxy}benzoic acid (4.20 mM) were dissolved in 30 ml of THF and 4.00 g of triethylamine (40.00 mM). The solution was cooled to −30° C. and 0.48 g of methansulfochloride (4.20 mM) were added. The mixture was stirred for 0.5 h at this temperature, then 1.04 g of bis{4-[(E)-(4-hydroxy-1-naphthyl)diazenyl]phenyl}-(E)-diazene (2.00 mM) were added at once, followed by 50 mg of DMAP. The reaction mixture was stirred for 1 h at −30° C. and was allowed to warm to room temperature while stirred overnight. The next day, the reaction mixture was poured onto 200 ml of water, the resulting suspension was stirred for 10 min. and the solids were filtered off, washed with water and dried. The resulting orange powder was boiled for 1 h in 25 ml of ethanol, cooled to room temperature and the solid was filtered off, washed with ethanol and dried to give 1.60 g (1.46 mM, 73%) of bis{4-((E)-{4-[(4-{[6-(methacryloyloxy)hexyl]oxy}benzoyl)oxy]-1-naphthyl}diazenyl)-phenyl}-(E)-diazene as orange crystals; λmax=428 nm, ε=52000 (THF).

reactant | 4-{[6-(methacryloyloxy)hexyl]oxy}benzoic acid | 4.20 mM, 1.28 g | C(C(=C)C)(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C17H22O5
reactant | bis{4-[(E)-(4-hydroxy-1-naphthyl)diazenyl]phenyl}-(E)-diazene | 2.00 mM, 1.04 g | OC1=CC=C(C2=CC=CC=C12)/N=N/C1=CC=C(C=C1)/N=N/C1=CC=C(C=C1)\N=N\C1=CC=C(C2=CC=CC=C12)O | C32H22N6O2
reactant | water | 200 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 40.00 mM, 4.00 g | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | bis{4-((E)-{4-[(4-{[6-(methacryloyloxy)hexyl]oxy}benzoyl)oxy]-1-naphthyl}diazenyl)-phenyl}-(E)-diazene | 1.46 mM, 1.60 g, 73% | C(C(=C)C)(=O)OCCCCCCOC1=CC=C(C(=O)OC2=CC=C(C3=CC=CC=C23)/N=N/C2=CC=C(C=C2)/N=N/C2=CC=C(C=C2)\N=N\C2=CC=C(C3=CC=CC=C23)OC(C2=CC=C(C=C2)OCCCCCCOC(C(=C)C)=O)=O)C=C1 | C66H62N6O10
